US09108921B2
Step E: tert-butyl-4-(3,3-difluorobutyl)-4-hydroxypiperidine-1-carboxylate (16F)
To a solution of tert-butyl-4-acetoxy-4-(3,3-difluorobutyl)piperidine-1-carboxylate (100 mg, 0.426 mmol) in MeOH (10 mL) and H2O (2 mL) was added NaOH (145 mg, 8.45 mmol). The resulting mixture was stirred at 40° C. for 4 h. After cooling to room temperature, the mixture was acidified with 2N HCl solution. After removal of MeOH, the resulting solution was extracted with ethyl acetate. The organic layer was dried over Na2SO4, filtered, and evaporated to dryness under reduced pressure to give the crude product which was used in the next step without further purification.

reactant | tert-butyl-4-acetoxy-4-(3,3-difluorobutyl)piperidine-1-carboxylate | 0.426 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC(C)(F)F)OC(C)=O | C16H27F2NO4
reactant | NaOH | 8.45 mmol, 145 mg | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
product | tert-butyl-4-(3,3-difluorobutyl)-4-hydroxypiperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CCC(C)(F)F | C14H25F2NO3
